US08865911B2
6-(3,3,3-trifluoropropoxy)-2,3-dihydro-1H-inden-1-one
To a solution of 6-hydroxy-2,3-dihydro-1H-inden-1-one (3.0 g, 20.3 mmol) in THF (140 mL) were triphenylphosphine (7.97 g, 30.4 mmol) and 3,3,3-trifluoropropan-1-ol (1.963 mL, 22.27 mmol) added. Diisopropyl azodicarboxylate (5.98 mL, 30.4 mmol) was added dropwise and the mixture was left stirring at r.t. overnight. Since there was starting material remaining, 3,3,3-trifluoro-1-propanol (0.892 mL, 10.1 mmol) was added dropwise and stirring was continued. After 30 min the mixture was heated to 40° C. and after 1 h the mixture was concentrated. The crude product was purified by flash chromatography (0-12% EtOAc in heptane as eluent) to afford 1.08 g (22% yield) of the title compound (containing some diisopropyl azodicarboxylate): 1H NMR (500 MHz, CDCl3) δ 2.65 (qt, 2 H), 2.71-2.77 (m, 2 H), 3.05-3.13 (m, 2 H), 4.23 (t, 2 H), 7.17-7.23 (m, 2 H), 7.40 (d, 1 H); MS (ES+) m/z 245 [M+H]+.

reactant | 6-hydroxy-2,3-dihydro-1H-inden-1-one | 20.3 mmol, 3.0 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | triphenylphosphine | 30.4 mmol, 7.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,3,3-trifluoropropan-1-ol | 22.27 mmol, 1.963 mL | FC(CCO)(F)F | C3H5F3O
reactant | Diisopropyl azodicarboxylate | 30.4 mmol, 5.98 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3,3,3-trifluoro-1-propanol | 10.1 mmol, 0.892 mL | FC(CCO)(F)F | C3H5F3O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 6-(3,3,3-trifluoropropoxy)-2,3-dihydro-1H-inden-1-one | 1.08 g, 22% yield | FC(CCOC1=CC=C2CCC(C2=C1)=O)(F)F | C12H11F3O2
